US05519040
2-Bromothiazole (1.2 mmol, 0.11 mL) and phenylboric acid (1.2 mmol, 0.146 g) were added to a solution of potassium carbonate (2M, 1.2 mL) and ethanol (0.6 mL) in deoxygenated toluene (12 mL). The resulting mixture was degassed for 30 minutes, then tetrakistriphenylphosphine palladium (0.036 mmol, 0.042 g) was added and the solution heated at reflux for 48 hours. The solids were removed by filtration and the solution extracted with toluene (5x), dried (MgSO4), filtered and concentrated. The residue was subjected to flash chromatography (hexane followed with 5% ethyl acetate/hexane and then 10% ethyl acetate/hexane) to afford 0.13 g (69%) of 2-phenylthiazole.

reactant | 2-Bromothiazole | 1.2 mmol, 0.11 mL | BrC=1SC=CN1 | C3H2BrNS
reactant | phenylboric acid | 1.2 mmol, 0.146 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | potassium carbonate | 2M, 1.2 mL | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 0.6 mL | C(C)O | C2H6O
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 2-phenylthiazole | 0.13 g, 69% | C1(=CC=CC=C1)C=1SC=CN1 | C9H7NS
